US07056916B2
(b) ethyl 4-(4-[2-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-2-methylpropyl]phenoxy)butyrate
1.20 g (3.36 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 0.90 g (3.22 mmol) of ethyl 4-[4-(2-amino-2-methylpropyl)phenoxy]butyrate are reacted in the manner described for Example 8(d). The crude product is dissolved in 10 mL ethyl acetate and 10 mL water and combined with oxalic acid with stirring. The solution is diluted with diethyl ether and the solid precipitated is suction filtered and washed with diethyl ether. Yield: 1.20 g (54%, oxalate); melting point 223° C.–227° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 3.36 mmol, 1.20 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | ethyl 4-[4-(2-amino-2-methylpropyl)phenoxy]butyrate | 3.22 mmol, 0.90 g | NC(CC1=CC=C(OCCCC(=O)OCC)C=C1)(C)C | C16H25NO3
reactant | water | 10 mL | O | H2O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 4-(4-[2-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-2-methylpropyl]phenoxy)butyrate | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(OCCCC(=O)OCC)C=C1)(C)C)O | C33H40N2O7
